US07723336B2
A mixture of 8-bromo-6-chloro-7-ethylimidazo[1,2-b]pyridazine (60 mg, 0.2 mmol, 1 eq) from 1d, aniline (20.3 μL, 0.22 mmol, 1.1 eq) and potassium tert-butoxide (0.51 mL, 0.51 mmol, 2.5 eq) were suspended in DMF (3 mL) and stirred at RT for 1 h. The mixture was quenched with ethyl acetate and washed with lithium chloride saturated solution, dried with sodium sulfate and concentrated in vacuo. The residue was purified using an ISCO chromatography system (4 g silica cartridge, 5% ethyl acetate in heptane) to provide 6-chloro-N-phenyl-7-ethylimidazo[1,2-b]pyridazin-8-amine (22 mg). LC/MS, m/e 273.14 (M+1). HPLC Rt, 2.24 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 8-bromo-6-chloro-7-ethylimidazo[1,2-b]pyridazine | 0.2 mmol, 60 mg, 1 eq | BrC=1C=2N(N=C(C1CC)Cl)C=CN2 | C8H7BrClN3
reactant | aniline | 0.22 mmol, 20.3 μL, 1.1 eq | NC1=CC=CC=C1 | C6H7N
reactant | potassium tert-butoxide | 0.51 mmol, 0.51 mL, 2.5 eq | CC(C)([O-])C.[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-chloro-N-phenyl-7-ethylimidazo[1,2-b]pyridazin-8-amine | 22 mg | ClC=1C(=C(C=2N(N1)C=CN2)NC2=CC=CC=C2)CC | C14H13ClN4
